US07091186B2
Commercially available reagents and solvents were obtained as follows: HPLC-grade solvents, Fisher; anhydrous solvents, Aldrich; diisopropyl azodicarboxylate (DIAD, 95%), Lancaster; 4-aminobenzyl alcohol, Alfa Aesar; Z-val-OSu, Advanced ChemTech; L-citrulline, Novabiochem; (1S, 2R)-(+)-norephedrine and other commercially available reagents, Aldrich. Cbz-val-cit-PAB-OH (1) (Dubowchik, G. M.; Firestone, R. A. Cathepsin B-Sensitive Dipeptide Prodrugs. 1. A Model Study of Structural Requirements for Efficient Release of Doxorubicin. Bioorg. Med. Chem. Letts. 1998, 8, 3341–3346; Dubowchik, G. M.; Mosure, K.; Knipe, J. O.; Firestone, R. A. Cathepsin B-Sensitive Dipeptide Prodrugs. 2. Models of Anticancer Drugs Paclitaxel (Taxol), Mitomycin C and Doxorubicin. Bioorg. Med. Chem. Letts. 1998, 8, 3347–3352) and combretastatin A-4 (VIIIb) (Pettit, G. R.; Singh, S. B.; Boyd, M. R.; Hamel, E.; Pettit, R. K.; Schmidt, J. M.; Hogan, F. Antineoplastic Agents. 291. Isolation and Synthesis of Combretastatin A-4, A-5, and A-6. J Med. Chem. 1995, 38, 1666–1672) were synthesized as previously described. 1H NMR spectra were recorded on a Varian Gemini 300 MHz spectrophotometer. Flash column chromatography was performed using 230–400 mesh ASTM silica gel from EM Science. Analtech silica gel GHLF plates were used for thin-layer chromatography. HPLC was performed using a Waters Alliance system with a photodiode array detector. Combustion analyses were determined by Quantitative Technologies, Inc., Whitehouse, N.J.

reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-aminobenzyl alcohol | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | Z-val-OSu | CC(C)[C@@H](C(=O)ON1C(=O)CCC1=O)NC(=O)OCC2=CC=CC=C2 | C17H20N2O6
reactant | L-citrulline | N[C@@H](CCCNC(=O)N)C(=O)O | C6H13N3O3
reactant | (1S, 2R)-(+)-norephedrine | CC(C(C1=CC=CC=C1)O)N | C9H13NO
reactant | Doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
reactant | Paclitaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | Mitomycin C | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)N | C15H18N4O5
product | combretastatin A-4 | COC1=C(C=C(C=C1)/C=C\C2=CC(=C(C(=C2)OC)OC)OC)O | C18H20O5
